US07244744B2
A solution of (4-butyl-phenyl)-[4-(2-thioxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-methanone (0.167 g, 0.424 mmol) in acetonitrile (5 mL) was treated with methyl iodide (0.120 g, 0.848 mmol) and potassium carbonate (0.117 g, 0.848 mmol). The reaction mixture was stirred 18 h then filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel using ethyl acetate as the eluent to give (4-butyl-phenyl)-[4-(2-methylsulfanyl-benzoimidazol-1-yl)-piperidin-1-yl]-methanone (0.164 g; 95%).

reactant | (4-butyl-phenyl)-[4-(2-thioxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-methanone | 0.424 mmol, 0.167 g | C(CCC)C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=S | C23H27N3OS
reactant | methyl iodide | 0.848 mmol, 0.120 g | CI | CH3I
reactant | potassium carbonate | 0.848 mmol, 0.117 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (4-butyl-phenyl)-[4-(2-methylsulfanyl-benzoimidazol-1-yl)-piperidin-1-yl]-methanone | 0.164 g, 95% | C(CCC)C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1C(=NC2=C1C=CC=C2)SC | C24H29N3OS
